US06372777B1
Preparation of 1-(3-Dimethylaminophenyl)-2-methyl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
N,N-dimethyl-1,3-phenylenediamine dihydrochloride (5 mmol, 1.09), triethylamine (10 mmol, 1.4 mL), 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol (25 mL), then heated under reflux (12 hrs). The solvents were removed under vacuum, the resulting oil was redissolved in methylene chloride, then applied to a silica column. The purified product was collected as a translucent oil. The named compound was identified by 1H-NMR (CDCl3, ppm) 1.28 t (3H) , 2.35 s (3H) , 2.77 s (6H) , 4.2 q (2H) , 6.3-6.7 m (4H), and 7.0-7.3 m (5H).

reactant | N,N-dimethyl-1,3-phenylenediamine dihydrochloride | 5 mmol | Cl.Cl.CN(C1=CC(=CC=C1)N)C
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-(3-Dimethylaminophenyl)-2-methyl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)N(C)C)C | C22H24N2O2
